US08039495B2
(S)-1-[3-(2′,4′,5′-Trifluoro-biphenyl-4-yloxymethyl)-benzoyl]-pyrrolidine-2-carbonitrile (1.56 g, 3.47 mmol), sodium azide (678 mg, 10.43 mmol) and triethylammonium hydrochloride (1.43 g, 10.43 mmol) in toluene were heated at 100° C. for 17 hrs. The reaction mixture was cooled, concentrated and distributed between 20 mL 0.5N HCl and 100 mL ethyl acetate. The ethyl acetate layer was separated, washed with saturated NaCl, dried over MgSO4, filtered and concentrated. The crude product was purified by flash chromatography with a 0-40% gradient of ethyl acetate/MeOH/AcOH (95:5:1) in CH2Cl2 to give 1.35 g (81.2%) of [(S)-2-(1H-tetrazol-5-yl)-pyrrolidin-1-yl]-[3-(2′,4′,5′-trifluoro-biphenyl-4-yloxymethyl)-phenyl]-methanone as a white solid. LC-MS (ES) calculated for C25H20F3N5O2, 479.47; found m/z 480.1 [M+H]+.

reactant | (S)-1-[3-(2′,4′,5′-Trifluoro-biphenyl-4-yloxymethyl)-benzoyl]-pyrrolidine-2-carbonitrile | 3.47 mmol, 1.56 g | FC1=C(C=C(C(=C1)F)F)C1=CC=C(C=C1)OCC=1C=C(C(=O)N2[C@@H](CCC2)C#N)C=CC1 | C25H19F3N2O2
reactant | sodium azide | 10.43 mmol, 678 mg | [N-]=[N+]=[N-].[Na+]
reactant | triethylammonium hydrochloride | 10.43 mmol, 1.43 g | Cl.C(C)[NH+](CC)CC
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | [(S)-2-(1H-tetrazol-5-yl)-pyrrolidin-1-yl]-[3-(2′,4′,5′-trifluoro-biphenyl-4-yloxymethyl)-phenyl]-methanone | 1.35 g, 81.2% | N1N=NN=C1[C@H]1N(CCC1)C(=O)C1=CC(=CC=C1)COC1=CC=C(C=C1)C1=C(C=C(C(=C1)F)F)F | C25H20F3N5O2
